US07638526B2
Step B: Preparation of 1,1-Dimethylethyl 1-oxo-3-(4-chlorophenyl)-2-isopropyl-2,7-diazaspiro[3.5]nonane-7-carboxylate (3)
In a dry 100 mL 3-necked flask, add 1,1-dimethylethyl 1-oxo-3-(4-chlorophenyl) -2,7-diazaspiro[3.5]nonane-7-carboxylate (7.0 g) and dry DMF (50 mL) and cool to ˜2 C. Add portionwise sodium hydride in 60% oil dispersion (1.10 g) keeping temperature at 2-5 C. After 5 min., add portionwise 2-bromopropane (2.6 mL) keeping temperature 3 to 8° C. Warm mixture to 50° C. After 4.5 h, cool to ˜20° C. and add ice water (400 mL). Extract with EtOAc (2×499 mL). Extract EtOAc with brine (50 mL). Concentrate the dried (MgSO4) EtOAc in vacuo to give the title compound as an amber oil (8.80 g). Add EtOAc:hexane (1:2, 20 mL) and keep overnight at RT to give the title compound as a yellow solid (5.75 g).

reactant | 1,1-dimethylethyl 1-oxo-3-(4-chlorophenyl) -2,7-diazaspiro[3.5]nonane-7-carboxylate | 7.0 g | O=C1NC(C12CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)Cl | C18H23ClN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromopropane | 2.6 mL | BrC(C)C | C3H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 1-oxo-3-(4-chlorophenyl)-2-isopropyl-2,7-diazaspiro[3.5]nonane-7-carboxylate | 8.80 g | O=C1N(C(C12CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)Cl)C(C)C | C21H29ClN2O3
